US07192967B1
N-[4-(1,3,10-trioxo-1,4,5,6,10,10a-hexahydro-acenaphtho[1,8a-c]pyrrol-2-yl)-butyl]-3-pyridin-3-yl-acrylamide (substance 226)
Batch size: 4.4 g (20.0 mmol) N-(4-hydroxy-butyl)-3-pyridin-3-yl-acrylamide, 5.2 g (19.8 mmol) triphenylphosphine, 4.8 g (19.9 mmol) 7,8-dihydroacenaphthen-2(6H)-on-1,8a-dicarboximide and 3.5 g (20.0 mmol) azodicarboxylic acid diethyl ester in 65 ml THF.

reactant | N-(4-hydroxy-butyl)-3-pyridin-3-yl-acrylamide | 20.0 mmol, 4.4 g | OCCCCNC(C=CC=1C=NC=CC1)=O | C12H16N2O2
reactant | triphenylphosphine | 19.8 mmol, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7,8-dihydroacenaphthen-2(6H)-on-1,8a-dicarboximide | 19.9 mmol, 4.8 g | C12C(C3=CC=CC=4CCCC1(C34)C(NC2=O)=O)=O | C14H11NO3
reactant | azodicarboxylic acid diethyl ester | 20.0 mmol, 3.5 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | N-[4-(1,3,10-trioxo-1,4,5,6,10,10a-hexahydro-acenaphtho[1,8a-c]pyrrol-2-yl)-butyl]-3-pyridin-3-yl-acrylamide | O=C1C23C(C(N1CCCCNC(C=CC=1C=NC=CC1)=O)=O)CC=1CCC=C(C=CC2=O)C13 | C26H25N3O4
